US08058276B2
6-(6-Hydroxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
A solution of 133 mg (0.256 mMol) 6-(6-benzyloxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide in 13.3 ml CH2Cl2 is cooled in an icebath. 3.3 ml H3CSO3H are added and stirring is continued for 2.5 h at rt. The solution is poured into a vigorousely stirred mixture of 70 g ice and 70 ml sat. Na2CO3 solution. After 5 min, the mixture is extracted 3 times with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; EtOAc/hexane 1:19→1:1→EtOAc) gives the title compound: m.p.: 181-182° C.; MS: [M+1]+=430; Anal.: C,H,N,F; 1H MNR (DMSO-d6): δ ppm 10.56 (s, HN), 8.85 (s, 1H), 8.65 (s, 1H), 8.22 (s, 1H), 8.15 (d, 1H), 8.01 (d, 1H), 7.72 (s, 1H), 7.63 (t, 1H), 7.47 (d, 1H), 7.27 (d, 1H), 7.06 (s, 1H), 5.67 (sb, HO), 4.55 (s, CH2).

reactant | 6-(6-benzyloxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.256 mMol, 133 mg | FC(C=1C=C(C=CC1)NC(=O)C1=COC2=C1C=CC(=C2)OC2=NC=NC(=C2)COCC2=CC=CC=C2)(F)F | C28H20F3N3O4
reactant | H3CSO3H | 3.3 ml | CS(=O)(=O)O | CH4O3S
reactant | Na2CO3 | 70 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 13.3 ml | C(Cl)Cl | CH2Cl2
product | 6-(6-Hydroxymethyl-pyrimidin-4-yloxy)-benzofuran-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=COC2=C1C=CC(=C2)OC2=NC=NC(=C2)CO)(F)F | C21H14F3N3O4
